US05189041
A solution of BBr3 (0.5 mmol) in dichloromethane (0.5 ml) was added dropwise at -70° C. to a solution of (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-1,2-dihydro-8-methoxy-5-methyl-1-oxopyrido[4,3-b]indole (0.11 g, 0.33 mmol)in dichloromethane (1 ml), from Example 3. The reaction mixture was warmed to ambient temperature, then recooled to -70° C. Methanol (0.5 ml) was added and the reaction mixture was brought to ambient temperature. The solvent was removed under reduced pressure and the residue was recrystallized from isopropanol to afford 0.04 g (37% yield) of (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-1,2-dihydro-8-hydroxy-5-methyl-1-oxopyrido[4,3-b]indole hydrobromide, m.p. 235°-250° C.

reactant | BBr3 | 0.5 mmol | B(Br)(Br)Br | BBr3
reactant | (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-1,2-dihydro-8-methoxy-5-methyl-1-oxopyrido[4,3-b]indole | 0.33 mmol, 0.11 g | N12C[C@H](C(CC1)CC2)N2C(C1=C(N(C=3C=CC(=CC13)OC)C)C=C2)=O | C20H23N3O2
reactant | Methanol | 0.5 ml | CO | CH4O
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-1,2-dihydro-8-hydroxy-5-methyl-1-oxopyrido[4,3-b]indole hydrobromide | 0.04 g, 37% yield | Br.N12C[C@H](C(CC1)CC2)N2C(C1=C(N(C=3C=CC(=CC13)O)C)C=C2)=O | InChI=1S/C19H21N3O2.BrH/c1-20-15-3-2-13(23)10-14(15)18-16(20)6-9-22(19(18)24)17-11-21-7-4-12(17)5-8-21;/h2-3,6,9-10,12,17,23H,4-5,7-8,11H2,1H3;1H/t17-;/m1./s1
